US06211199B1
According to the method of J. Chem. Soc. (C), 1664 (1967), combine methyl 2-methoxy-5-aminobenzoate (2.0 g, 11 mmol), N,N-dimethylformamide azine (1.56 g, 11 mmol), p-toluenesulfonic acid (190 mg) in toluene (25 mL). Fit the reaction vessel with a gas inlet such that the head space of the vessel is swept with argon and scrub the effluent through dilute aqueous hydrochloric acid solution. Heat to reflux. After 20 hours, concentrate the reaction mixture in vacuo to give a residue. Partition the residue between dichloromethane and a saturated aqueous sodium bicarbonate solution. Extract the aqueous layer twice with dichloromethane. Combine the organic layers, dry over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 70% ethyl acetate/dichloromethane and then 5% methanol/dichloromethane to give a residue. Recrystallize the residue form ethyl acetate/hexane to give methyl 2-methoxy-5-(4H-triazol-1-yl)benzoate: mp; 191-195.5° C.

reactant | methyl 2-methoxy-5-aminobenzoate | 11 mmol, 2.0 g | COC1=C(C(=O)OC)C=C(C=C1)N | C9H11NO3
reactant | N,N-dimethylformamide azine | 11 mmol, 1.56 g | CN(/C=N/N=C/N(C)C)C | C6H14N4
reactant | p-toluenesulfonic acid | 190 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol dichloromethane | CO.ClCCl
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | methyl 2-methoxy-5-(4H-triazol-1-yl)benzoate | COC1=C(C(=O)OC)C=C(C=C1)N1N=NCC1 | C11H13N3O3
